US05252593
1-(Phenylmethoxy)-hexane-2,4-dione
2-Butanone (32.7 ml) in dry THF (120 ml) was added to lithium diisopropylamide (1.5M in THF; 250 ml) at -78° C. Methyl benzyloxyacetate (30,0 g) was added with stirring and the mixture allowed to warm to room temperature and was then heated at 45° overnight. After cooling the reaction was quenched with saturated ammonium chloride solution, acidified and extracted with ether (3×100 ml). After drying and evaporation, the title compound was obtained as a brown oil (45.6 g).

reactant | 2-Butanone | 32.7 ml | CC(CC)=O | C4H8O
reactant | lithium diisopropylamide | 1.5M, 250 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | Methyl benzyloxyacetate | 30,0 g | C(C1=CC=CC=C1)OCC(=O)OC | C10H12O3
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | 1-(Phenylmethoxy)-hexane-2,4-dione | C1(=CC=CC=C1)COCC(CC(CC)=O)=O | C13H16O3
